US08809527B2
Method XXXIV, Part 1: 6-amino-2,4-dichloro-5-nitropyrimidine
A solution of 2,4,6-trichloro-5-nitropyrimidine (94 mg, 0.413 mmol) in THF (5 mL) was cooled to −78° C. and treated with Et3N (110 μL, 0.757 mmol), followed by NH3 (7 N in MeOH, 50 μL, 0.344 mmol). The reaction was warmed to 0° C. Once TLC indicated complete consumption of the starting material, the crude product solution was immediately used in the reaction below (Scheme 40).

reactant | 2,4,6-trichloro-5-nitropyrimidine | 0.413 mmol, 94 mg | ClC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])Cl | C4Cl3N3O2
reactant | Et3N | 0.757 mmol, 110 μL | CCN(CC)CC | C6H15N
reactant | NH3 | 0.344 mmol, 7 N, 50 μL | N | H3N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-amino-2,4-dichloro-5-nitropyrimidine | NC1=C(C(=NC(=N1)Cl)Cl)[N+](=O)[O-] | C4H2Cl2N4O2
